US05663200
11c) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-(p-methoxyphenyl)-2(R)-(phenylmethyl)hexanoic acid
3.00 g (7.05 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-methoxy-phenyl)-ethyl]-3(R)-(phenylmethyl)dihydrofuran-2-(3H)-one in 112 ml of dimethoxyethane and 57 ml of water are hydrolysed, under protective gas, with 28 ml of 1M lithium hydroxide solution. After 20 h at RT, the reaction mixture is poured onto an ice-cold mixture of 340 ml of sat. NH4Cl solution, 28 ml of 10% citric acid solution and 140 ml of methylene chloride. Methanol is added in order to dissolve the product completely. The aqueous phase is separated off and extracted 2× with methylene chloride. The organic phases are washed with saline, dried with Na2SO4 and evaporated, with the title compound being obtained: tRet (II)=14.0 min; FAB-MS (M+H)+ =444.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-methoxy-phenyl)-ethyl]-3(R)-(phenylmethyl)dihydrofuran-2-(3H)-one | 7.05 mmol, 3.00 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC)[C@@H]1C[C@H](C(O1)=O)CC1=CC=CC=C1 | C25H31NO5
reactant | lithium hydroxide | 1M, 28 ml | [OH-].[Li+]
reactant | NH4Cl | 340 ml | [NH4+].[Cl-]
reactant | citric acid | 28 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dimethoxyethane | 112 ml | C(OC)COC | C4H10O2
solvent | water | 57 ml | O | H2O
solvent | Methanol | CO | CH4O
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-(p-methoxyphenyl)-2(R)-(phenylmethyl)hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O)CC1=CC=C(C=C1)OC | C25H33NO6
